** sch_path: /home/designer/shared/2026/Cells/CP.sch
.subckt CP CPIN CPOUT VSS
*.PININFO VSS:B CPIN:I CPOUT:O
C1 CPOUT VSS cap_cmim w=60e-6 l=20e-6 m=1
x4 CPOUT CPIN RES
.ends

* expanding   symbol:  /home/designer/shared/2026/Cells/RES.sym # of pins=2
** sym_path: /home/designer/shared/2026/Cells/RES.sym
** sch_path: /home/designer/shared/2026/Cells/RES.sch
.subckt RES ROUT RIN
*.PININFO RIN:I ROUT:O
R1 net1 RIN  rppd w=1e-6 l=10e-6 m=1 b=0
R3 net2 net1  rppd w=1e-6 l=10e-6 m=1 b=0
R4 net3 net2  rppd w=1e-6 l=10e-6 m=1 b=0
R5 net4 net3  rppd w=1e-6 l=10e-6 m=1 b=0
R2 net5 net4  rppd w=1e-6 l=10e-6 m=1 b=0
R6 net6 net5  rppd w=1e-6 l=10e-6 m=1 b=0
R7 net7 net6 rppd w=1e-6 l=10e-6 m=1 b=0
R8 net8 net7  rppd w=1e-6 l=10e-6 m=1 b=0
R9 net9 net8  rppd w=1e-6 l=10e-6 m=1 b=0
R10 net10 net9  rppd w=1e-6 l=10e-6 m=1 b=0
R11 net11 net10 rppd w=1e-6 l=10e-6 m=1 b=0
R12 ROUT net11  rppd w=1e-6 l=10e-6 m=1 b=0
.ends

